US06677463B1
Artemisinin (500 mg) and polyhydroxy compound (dextrose, 2.5 g) are stirred in 1,4-dioxan (15 ml) at room temperature for 5 minutes. Sodium borohydride (2.5 g) is added slowly for 10 minutes and the reaction mixture is stirred for about 2 hours at room temperature (20-30° C.). After completion of the reaction (Checked by TLC), succinic anhydride (250 mg) and anion exchange (basic) resin (1.5 g) are added at room temperature and the reaction mixture is stirred further for 2 hours at room temperature. Cold water (50 ml) is added to the reaction mixture and pH is adjusted between 6-7 with dilute acetic acid and extracted with 40% ethyl acetate in hexane (3×25 ml). The combined extract is washed with water (50 ml). The ethyl acetate n-hexane extract is dried over anhydrous sodium sulphate and evaporation of the solvent yield 655 mg of crude artesunic acid which upon purification over silica gel (1:5 ratio) with 20-30% ethyl acetate in hexane, furnish pure artesunic acid in 93% w/w (465 mg) yield (according to CO-TLC). After drying the pure α-artesunic acid, mp 140-142° C. is chareterised by spectral analysis.

reactant | Artemisinin | 500 mg | C[C@@H]1CC[C@H]2[C@H](C(=O)O[C@H]3[C@@]24[C@H]1CC[C@@](O3)(OO4)C)C | C15H22O5
reactant | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | Sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | succinic anhydride | 250 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | 1,4-dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | artesunic acid | C[C@@H]1CC[C@H]2[C@H]([C@@H](O[C@H]3[C@@]24[C@H]1CC[C@](O3)(OO4)C)OC(=O)CCC(=O)O)C | C19H28O8
